US08258130B2
A solution of 2-pyridin-2-yl-4-methyl-pyrimidine-5-carboxylic acid (1.36 mmol), 5-fluoro-3-methyl-pyrrolo[3,2-b]pyridin-1-ylamine (1.36 mmol), DIPEA (158 mg, 4.07 mmol) and HATU (1.63 mmol) in anhydrous DMF (8 mL) is stirred at 90° C. for 15 hours. DMF is evaporated in vacuo. The residue is dissolved in EtOAc (40 mL), washed with water (3×15 mL) and brine (10 mL), dried (Na2SO4), filtered, and concentrated in vacuo. The residue is recrystallized from EtOAc to afford 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (5-fluoro-3-methyl-pyrrolo[3,2-b]pyridin-1-yl)-amide (285 mg) as a solid. MS: 363 (M+H); 1H NMR (300 MHz, CD3OD): δ 2.35 (s, 3H), 2.87 (s, 3H), 6.92 (d, H), 7.51 (s, H), 7.60 (t, H), 7.97 (t, H), 8.05 (t, H), 8.65 (d, H), 8.78 (d, H), 9.23 (s, H).

reactant | 2-pyridin-2-yl-4-methyl-pyrimidine-5-carboxylic acid | 1.36 mmol | N1=C(C=CC=C1)C1=NC=C(C(=N1)C)C(=O)O | C11H9N3O2
reactant | 5-fluoro-3-methyl-pyrrolo[3,2-b]pyridin-1-ylamine | 1.36 mmol | FC1=CC=C2C(=N1)C(=CN2N)C | C8H8FN3
reactant | DIPEA | 4.07 mmol, 158 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.63 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (5-fluoro-3-methyl-pyrrolo[3,2-b]pyridin-1-yl)-amide | 285 mg | FC1=CC=C2C(=N1)C(=CN2NC(=O)C=2C(=NC(=NC2)C2=NC=CC=C2)C)C | C19H15FN6O
